Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel
 
Attending: ___
 
Chief Complaint:
vagnitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ female presents with new onset vaginal pain. She has a 
history of stage IIC poorly differentiated high grade serous 
carcinoma of the ovary and is s/p exploratory laparoscopy, 
exploratory laparotomy, total abdominal hysterectomy, bilateral 
salpingo-oophorectomy, resection of pelvic tumor, total pelvic 
lymphadenectomy, para-aortic lymph node resection, infracolic 
omentectomy, and peritoneal biopsies ___.  She received  
adjuvant chemotherapy and completed chemotherapy ___. Her 
last CA 125 was 14, ___. Last CT Scan ___  No acute 
intra-abdominal process.  Decrease in size of two simple fluid
collections in the retroperitoneum and left pelvic sidewall at 
the site of prior lymph node dissection likely representing 
postop seromas or lymphoceles.    

Patient reports the onset of burning vaginal pain ___ days prior 
to presentation. She was seen in the office as recently as ___ 
where exam was
normal. However, she did have some vulvar irritation and was 
prescribed clobetasol. She presented to her PCP today for urgent 
care clinic and was thought to have a vaginal wall abscess. 

She reports that the pain started ___ days ago and is constant 
in nature, worse with urination and movement. She describes it 
as burning. She denies abnormal vaginal discharge. Denies 
vaginal bleeding. She does report dysuria and difficulty with 
hesitation and a feeling of incomplete voiding. She denies any 
change in bowel habits. Denies abdominal or pelvic pain. She 
does report
some lower back pain, which she associates with changing her 
posture to compensate for vaginal pain. Denies fevers, chills, 
CP, SOB. 

 
Past Medical History:
PMH:
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS

Past Obstetric and Gynecologic Histories: 
Pregnancies: G0
No prior STDs
Not sexually active
Denies prior abnormal Pap smears
History of uterine fibroids

PSH: wrist surgery; right ovarian laparoscopic cystectomy; 
TAH/BSO, pelvic tumor resection,  
total pelvic lymphadenectomy, para-aortic LN resection,  
infracolic omemtectomy, peritoneal biopsies  

 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal  
great uncle had colon cancer. Mother and grandfather have high  
blood pressure. Mother has DM, and father has psoriasis. She  
otherwise denies a family history of ovarian, uterine, cervical  

or vaginal cancer  

 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
pulm: clear to ausculatation bilaterally
abd: soft, nontender, nondistended, incision clean/dry/intact 
GU: no bleeding on pad or discharge, minimal erythema of vulva
___: nontender, nonedematous

 
Pertinent Results:
___ 02:00PM BLOOD WBC-4.8 RBC-4.09* Hgb-11.4* Hct-36.0 
MCV-88 MCH-27.9 MCHC-31.7 RDW-14.6 Plt ___
___ 02:00PM BLOOD Neuts-70.0 ___ Monos-4.1 Eos-1.3 
Baso-0.4
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecology oncology service 
for pain control with a severe episode of vaginitis. She 
recieved acetaminophen/ibuprofen/oxycodone/dermoplast spray for 
pain control. She was treated with lotrisone cream BID, diflucan 
and premarin.

She was then discharged home in stable condition with the above 
pain regimen with outpatient follow up scheduled. 

 
Medications on Admission:
amitriptyline ___ mg qhs prn insomnia, cymbalta ER 60 mg qam, 
omeprazole 40 mg daily, loratadine 10 mg daily, lorazepam 0.5 mg 
TID prn pelvic pain, gabapentin 600 mg BID (prescribed as TID 
but taking BID), prescribed premarin 0.3 mg tablet weekly and 
estradiol patch 0.025 mg biweekly but not taking 
 
Discharge Medications:
1. Estrogens Conjugated 0.3 mg PO DAILY surgical menopause 
RX *conjugated estrogens [Premarin] 0.3 mg 1 tablet(s) by mouth 
daily Disp #*28 Tablet Refills:*11
2. Gabapentin 600 mg PO BID 
3. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*1
4. Loratadine 10 mg PO DAILY 
5. Lorazepam 0.5 mg PO TID PRN pelvic pain 
6. Omeprazole 40 mg PO DAILY 
7. Famotidine 20 mg PO BID:PRN heartburn 
8. Acetaminophen ___ mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*40 Tablet Refills:*1
9. Amitriptyline ___ mg PO HS PRN  insomnia 
10. Calcium Carbonate 500 mg PO QID:PRN heartburn 
11. Clotrimazole Cream 1 Appl TP BID 
RX *clotrimazole 1 % Apply quarter sized amount to vulva twice 
per day Disp #*1 Tube Refills:*0
12. Duloxetine 60 mg PO Q AM 
13. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
do not drive. do not take more than prescribed. do not combine 
with other sedating medications. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrophic vaginitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for pain control vaginitis which is likely due 
to your surgical menopause. You were started on estrogen therapy 
for this, given pain medicine and treated for a fungal infection 
which may be worsening your symtpoms. You were felt to be safe 
to be discharged and given prescriptions for pain medication and 
medication for your vaginitis.

 
Followup Instructions:
___